US04327034
158.2 parts of pyridine are added at -10° C., while stirring, to a solution of 188.8 parts of methyl chloroformate in 1,200 parts of methylene chloride. Then 259.2 parts of methylsulfamic acid chloride are added at the same temperature while stirring, and the mixture is stirred for half an hour at 0° C. and for one hour at 25° C. The reaction mixture is then stirred for 6 minutes with 600 parts of water at 5° C. and pH 1. The organic phase is then separated off from the 2-phase mixture formed, and is filtered and subjected to fractional distillation. 341 parts (91% of theory) of N-methoxycarbonyl-N-methylsulfamic acid chloride, of boiling point 49°-51° C./0.13 mbar and nD25 =1.4600, are obtained.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methylsulfamic acid chloride | CNS(=O)(=O)Cl | CH4ClNO2S
solvent | water | O | H2O
product | N-methoxycarbonyl-N-methylsulfamic acid chloride | 91% | COC(=O)N(S(=O)(=O)Cl)C | C3H6ClNO4S
